US06215004B1
FIG. 2 illustrates four additional embodiments (methods A-D) for preparing the 1,3-oxathiolane ring. As a nonlimiting illustrative example of method A in FIG. 2, (5-oxo-1,3-oxathiolan-2-yl)methyl butanoate can be prepared by a four-step process which does not require purification of the intermediate products. In a first step, (2,2-dimethyl-1,3-dioxolan-4-yl)methyl butanoate is prepared from solketal and n-butyryl chloride in t-butyl methyl ether, DMAP and triethylamine. The (2,2-dimethyl-1,3-dioxolan-4-yl)methyl butanoate is then placed in solution with Dowex 50W X8-100 H+ resin in methanol, to yield 2,3-dihydroxypropyl butanoate. The resulting diol is then reacted with a solution of sodium periodate in distilled water to produce 2-oxoethyl butanoate. Using 2-oxoethyl butanoate, the (5-oxo-1,3-oxathiolan-2-yl)methyl butanoate can be prepared by reaction with mercaptoacetic acid as p-TsOH.H2O in acetonitrile. The (5-oxo-1,3-oxathiolan-2-yl)methyl butanoate can be converted into its 5-acetyloxy derivative by reacting with lithium tri-t-butoxy aluminum hydride in THF.

reactant | (5-oxo-1,3-oxathiolan-2-yl)methyl butanoate | C(CCC)(=O)OCC1OC(CS1)=O | C8H12O4S
reactant | (2,2-dimethyl-1,3-dioxolan-4-yl)methyl butanoate | C(CCC)(=O)OCC1OC(OC1)(C)C | C10H18O4
solvent | methanol | CO | CH4O
product | 2,3-dihydroxypropyl butanoate | C(CCC)(=O)OCC(CO)O | C7H14O4
